US04335207
Food-grade sucrose, 600 g, was dissolved in 600 ml of water. The pH was adjusted and maintained at 6.5 by the addition of 0.5 N sodium hyroxide solution as needed. To the sucrose solution was added 18,000 units of fructosyl transferase enzyme preparation, obtained by the method of Example 1 and 12,000 units of glucose isomerase enzyme prepared as described by Cory, U.S. Pat. No. 4,077,842. After the mixture had been stirred at 55° C. for 22 hours, it was heat treated to stop the enzyme reaction.

reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | sodium hyroxide | 0.5 N | [OH-].[Na+]
solvent | water | 600 ml | O | H2O
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
